US03950380
F. 3-benzyloxy-4-phenyl-5-sulfamylbenzoic acid
3-Benzyloxy-5-chlorosulfonyl-4-phenylbenzoic acid (1.0 g) is in portions added to conc. ammonium hydroxide (10 ml), while stirring at 10°-12° C. After additional stirring at room temperature for 18-20 hours, the mixture is left in a refrigerator for 2-3 hours. The separated ammonium salt is collected by filtration and washed with a small amount of icecold water. After drying, the salt is dissolved in 1 N sodium hydroxide (10 ml) and the 3-benzyloxy-4-phenyl-5-sulfamylbenzoic acid is precipitated by the dropwise addition of the solution to 1 N hydrochloric acid (12 ml). The acid is collected by filtration, washed with water and dried. After recrystallization from aqueous ethanol, it is obtained with a melting point of 199°-200° C.

reactant | 3-Benzyloxy-5-chlorosulfonyl-4-phenylbenzoic acid | 1.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H15ClO5S
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | 3-benzyloxy-4-phenyl-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C20H17NO5S
